US08957109B2
3-(4-Hydroxyphenyl)-4-(4-methoxyphenyl)-2-chromen-7-ol
7-(tert-Butyldimethylsilyloxy)-3-(4 (tert-butyldimethylsilyloxy)phenyl)-4-(4-methoxyphenyl)chroman-4-ol (42 g), pTsOH (435 g), boiling chips and 2.5 L of ethanol win, combined in a 2-neck SL round bottom flask with condenser attached. The reaction was heated at reflux for 3 hours. The solvent was concentrated in vacuo to ˜1000 ml before being poured into chilled, stirred water (700 ml). The mixture was then extracted with ethyl acetate, the combined organic layers washed with water (3×2 L) brine (1×500 ml), dried over anhydrous magnesium sulphate and filtered and solvent removed in vacuo to give red/brown oil. The oil was dissolved in methanol (˜100 ml) ad put in freezer overnight.

reactant | 7-(tert-Butyldimethylsilyloxy)-3-(4 (tert-butyldimethylsilyloxy)phenyl)-4-(4-methoxyphenyl)chroman-4-ol | 42 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)(O)C1=CC=C(C=C1)OC | C34H48O5Si2
reactant | pTsOH | 435 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | ethanol | 2.5 L | C(C)O | C2H6O
solvent | methanol | ˜100 ml | CO | CH4O
product | 3-(4-Hydroxyphenyl)-4-(4-methoxyphenyl)-2-chromen-7-ol | OC1=CC=C(C=C1)C1=COC2=CC(=CC=C2C1C1=CC=C(C=C1)OC)O | C22H18O4
